US06143760
A solution of a-bromo-p-tolunitrile (4.90 g, 25 mmol) in acetonitrile (50 mL) was added dropwise to a stirring solution of 40% aqueous methylamine (21.5 mL, 250 mmol) in acetonitrile (50 mL) at 0° C. The reaction mixture was stirred 0.5 h, then concentrated in vacua. Water was added to the residue and extracted 2× with dichloromethane. The combined organic layers were dried over sodium sulfate, filtered, and concentrated in vacua to give 1.41 g of 4-(methylaminomethyl)benzonitrile as a yellow oil containing ~30% of N,N-bis(4-benzonitrile)methyl-amine. The aqueous was adjusted to pH>8 and extracted 2× with 9:1 dichloromethane:methanol. The combined extracts were dried over sodium sulfate, filtered, and concentrated in vacua to give 1.13 g of pure 4-(methylamino)benzonitrile as a colorless oil.

reactant | a-bromo-p-tolunitrile | 25 mmol, 4.90 g | C1=CC(=CC=C1CBr)C#N | C8H6BrN
reactant | methylamine | 250 mmol, 21.5 mL | CN | CH5N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 4-(methylaminomethyl)benzonitrile | 1.41 g | CNCC1=CC=C(C#N)C=C1 | C9H10N2
